US05972965
To a solution of 4-hydroxy-1-[4,5-bis(4-methylphenyl)oxazol-2-yl)butan-1-one (0.78 g) and triethylamine (2 ml) in DMSO (10 ml) was added a solution of pyridinesulfonic acid (1.16 g) in DMSO (4 ml) at room temperature. After being stirred for 20 minutes at the same temperature, the mixture was partitioned between ethyl acetate and water. The organic layer was washed with 1M-HCl, water and brine. The dried solvent was evaporated in vacuo and the residue was purified by chromatography on silica gel to give 1-[4,5-bis(4-methylphenyl)oxazol-2-yl)butan-1,4-dione (0.22 g). MS (m/z): 334 (M+ +1) IR (Nujol): 1735, 1690 cm-1NMR (CDCl3, δ): 2.38 (3H, s), 2.40 (3H, s), 2.97 (2H, t, J=6.4 Hz), 3.47 (2H, t, J=6.4 Hz), 7.17-7.26 (4H, m), 7.53-7.59 (4H, m), 9.88 (1H, s)

reactant | 4-hydroxy-1-[4,5-bis(4-methylphenyl)oxazol-2-yl)butan-1-one | 0.78 g | OCCCC(=O)C=1OC(=C(N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C21H21NO3
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | pyridinesulfonic acid | 1.16 g | N1=C(C=CC=C1)S(=O)(=O)O | C5H5NO3S
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
product | 1-[4,5-bis(4-methylphenyl)oxazol-2-yl)butan-1,4-dione | 0.22 g | CC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)C)C(CCC=O)=O | C21H19NO3
